US08754242B2
Potassium carbonate (2.58 g, 19 mmol) is added to a stirred solution of (1RS,2SR,6RS,7RS)-4-(2,4,6-trimethylphenyl)-8-trimethylsilylethynyl-10-oxatricyclo-[5.2.1.02,6]decane-3,5-dione (6.43 g, 17 mmol) in methanol (100 ml). The reaction mixture is stirred at room temperature for 2 hours and 30 minutes, then dilute aqueous hydrochloric acid is added and the mixture is extracted with ethyl acetate. The organic extracts are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure to give (1RS,2SR,6RS,7RS)-8-ethynyl-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]decane-3,5-dione.

reactant | Potassium carbonate | 19 mmol, 2.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | (1RS,2SR,6RS,7RS)-4-(2,4,6-trimethylphenyl)-8-trimethylsilylethynyl-10-oxatricyclo-[5.2.1.02,6]decane-3,5-dione | 17 mmol, 6.43 g | CC1=C(C(=CC(=C1)C)C)C1C(C2C3CC(C(C2C1=O)O3)C#C[Si](C)(C)C)=O | C23H28O3Si
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | (1RS,2SR,6RS,7RS)-8-ethynyl-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]decane-3,5-dione | C(#C)C1C2C3C(C(C(C3C(C1)O2)=O)C2=C(C=C(C=C2C)C)C)=O | C20H20O3
